US06239131B1
Preparation of 1-(2-toluoylmethyl)-2-oxo-3-amino-5-(3-methyl-2-butenyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-(2-Toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-(3-methyl-2-butenyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (780 mg) was suspended in 4N HCl-dioxane (10 ml), the suspension was stirred for one hour at 50° C. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in water, washed with diethyl ether, alkalified with saturated aqueous sodium bicarbonate, and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, to thereby obtain 493 mg of the titled compound (Yield: 79.4%).

reactant | 1-(2-Toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-(3-methyl-2-butenyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 780 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)CC=C(C)C)NC(=O)OC(C)(C)C)=O)C | C29H37N3O4
solvent | HCl dioxane | 4N, 10 ml | Cl.O1CCOCC1
product | 1-(2-toluoylmethyl)-2-oxo-3-amino-5-(3-methyl-2-butenyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 493 mg, Yield: 79.4% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)CC=C(C)C)N)=O)C | C24H29N3O2
